US08067448B2
N′-((2R,3R)-3-(tert-Butyldimethylsilyloxy)-2-(4-cyano-3-(trifluoromethyl)phenylamino)butanoyl)-4-(methylsulfonyl)benzohydrazide
To a pre-cooled (0° C.) solution of N′-((2R,3R)-2-(4-cyano-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)-4-(methylsulfonyl)benzohydrazide (5.16 g, 10.7 mmol) in DMF (150 mL) was added imidazole (4.36 g, 64.0 mmol) then TBSCl (4.81 g, 32.0 mmol). The reaction was warmed slowly to room temperature, stirred for 17 h, cooled to 0° C. and quenched with H2O (300 mL). The solution was extracted with EtOAc (250 mL). The organic extract was washed with brine (2×200 mL), dried (Na2SO4), filtered and concentrated under reduced pressure to provide a brown oil, which was purified by flash chromatography over silica gel (50% EtOAc in hexanes) to provide the title compound (5.29 g, 83%): 1H NMR (400 MHz, acetone-d6, δ in ppm) 10.06 (s, 2H), 8.10 (dm, J=8.6 Hz, 2H), 8.03 (dm, J=8.6 Hz, 2H), 7.70 (d, J=8.6 Hz, 1H), 7.35 (d, J=2.4 Hz, 1H), 7.14 (dd, J=2.4, 8.6 Hz, 1H), 6.57 (d, J=7.4 Hz, 1H), 4.50-4.41 (m, 2H), 3.17 (s, 3H), 1.36 (d, J=5.9 Hz, 3H), 0.85 (s, 9H), 0.11 (s, 3H), 0.09 (s, 3H).

reactant | N′-((2R,3R)-2-(4-cyano-3-(trifluoromethyl)phenylamino)-3-hydroxybutanoyl)-4-(methylsulfonyl)benzohydrazide | 10.7 mmol, 5.16 g | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)S(=O)(=O)C)=O)[C@@H](C)O)C(F)(F)F | C20H19F3N4O5S
reactant | imidazole | 64.0 mmol, 4.36 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 32.0 mmol, 4.81 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | N′-((2R,3R)-3-(tert-Butyldimethylsilyloxy)-2-(4-cyano-3-(trifluoromethyl)phenylamino)butanoyl)-4-(methylsulfonyl)benzohydrazide | 5.29 g, 83% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)S(=O)(=O)C)=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)C | C26H33F3N4O5SSi
